US06162813
Step 1D 7-chloro-6-nitro-4-(2-piperidin-2-yl-ethoxy)-3-thiophen-2-yl-1H-quinolin-2-one
To a solution of 2-[2-(7-chloro-6-nitro-2-oxo-3-thiophen-2-yl-1,2-dihydro-quinolin-4-yloxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester (45 mg in 2.0 mL methylene chloride) was added 2 drops of anisole followed by 1.0 mL of trifluoroacetic acid and the mixture stirred at room temperature. After 45 minutes the solvents were removed in vacuo and the resulting residue purified by flash chromatography on silica gel (methylene chloride:methanol, 95:5) to give the title compound (25 mg).

reactant | 2-[2-(7-chloro-6-nitro-2-oxo-3-thiophen-2-yl-1,2-dihydro-quinolin-4-yloxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mL, 45 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C=1SC=CC1 | C25H28ClN3O6S
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | anisole | 2 drops | C1(=CC=CC=C1)OC | C7H8O
product | 7-chloro-6-nitro-4-(2-piperidin-2-yl-ethoxy)-3-thiophen-2-yl-1H-quinolin-2-one | 25 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C=1SC=CC1)OCCC1NCCCC1)[N+](=O)[O-] | C20H20ClN3O4S
